US07678798B2
2-(1H-Inden-6-yl)-1,3-thiazole
To a solution of 5-(1,3-thiazol-2-yl)indan-1-ol (900.00 mg, 0.0041420 mol) in tetrahydrofuran (20.00 mL) was added a 1.0 M solution of hydrogen chloride in water (20.00 mL). The reaction mixture was heated to reflux overnight. After cooling down to room temperature, the reaction was quenched with 30 mL of 1 N NaOH aqueous solution. The organic layer was seperated and the aqueous phase was extracted with EtOAc (3×30 mL). The combined extracts were washed with brine, dried over anhydrous MgSO4, filtered, and evaporated under reduced pressure to afford the desired product (381 mg, 46%). LC-MS [M+1]=200.2.

reactant | 5-(1,3-thiazol-2-yl)indan-1-ol | 0.0041420 mol, 900.00 mg | S1C(=NC=C1)C=1C=C2CCC(C2=CC1)O | C12H11NOS
reactant | hydrogen chloride | Cl | ClH
solvent | tetrahydrofuran | 20.00 mL | O1CCCC1 | C4H8O
solvent | water | 20.00 mL | O | H2O
product | 2-(1H-Inden-6-yl)-1,3-thiazole | 381 mg, 46% | C1C=CC2=CC=C(C=C12)C=1SC=CN1 | C12H9NS
